Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
morphine / Keflex
 
Attending: ___
 
Chief Complaint:
Left hip hemiarthroplasty aseptic loosening
 
Major Surgical or Invasive Procedure:
Left revision total hip arthroplasty

 
History of Present Illness:
___ year old female s/p L hip hemiarthroplasty ___ years ago in 
the setting of fracture, with L hip pain and radiographs 
demonstrating loosening of femoral stem, now s/p removal of 
hemiarthroplasty and revision L THA. 
 
Past Medical History:
- CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls
- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with staples 
* Scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm  
 
Pertinent Results:
___ 07:20AM BLOOD WBC-10.1* RBC-3.34* Hgb-9.8* Hct-30.6* 
MCV-92 MCH-29.3 MCHC-32.0 RDW-14.6 RDWSD-48.9* Plt ___
___ 06:30AM BLOOD WBC-11.7* RBC-3.50* Hgb-10.4* Hct-32.0* 
MCV-91 MCH-29.7 MCHC-32.5 RDW-14.7 RDWSD-49.1* Plt ___
___ 07:00AM BLOOD WBC-12.5* RBC-3.35* Hgb-9.8* Hct-30.1* 
MCV-90 MCH-29.3 MCHC-32.6 RDW-15.0 RDWSD-49.3* Plt ___
___ 06:30AM BLOOD WBC-11.9* RBC-3.24* Hgb-9.6* Hct-28.6* 
MCV-88 MCH-29.6 MCHC-33.6 RDW-15.2 RDWSD-48.8* Plt ___
___ 01:15AM BLOOD WBC-13.0* RBC-3.14*# Hgb-9.4*# Hct-27.6*# 
MCV-88 MCH-29.9 MCHC-34.1 RDW-14.7 RDWSD-47.4* Plt ___
___ 06:10AM BLOOD WBC-12.1* RBC-2.23* Hgb-7.0* Hct-20.3* 
MCV-91 MCH-31.4 MCHC-34.5 RDW-13.2 RDWSD-42.8 Plt ___
___ 09:30AM BLOOD WBC-15.6* RBC-2.81* Hgb-8.4* Hct-25.2* 
MCV-90 MCH-29.9 MCHC-33.3 RDW-13.2 RDWSD-43.5 Plt ___
___ 12:15AM BLOOD WBC-UNABLE TO 
___ 06:00PM BLOOD WBC-17.2*# RBC-3.30* Hgb-10.0* Hct-29.8* 
MCV-90 MCH-30.3 MCHC-33.6 RDW-12.8 RDWSD-41.8 Plt ___
___ 07:20AM BLOOD Plt ___
___ 06:30AM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 06:30AM BLOOD Plt ___
___ 01:15AM BLOOD Plt ___
___ 06:10AM BLOOD Plt ___
___ 09:30AM BLOOD Plt ___
___ 06:00PM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-94 UreaN-19 Creat-1.0 Na-134 
K-4.9 Cl-96 HCO3-31 AnGap-12
___ 06:30AM BLOOD Glucose-94 UreaN-14 Creat-0.9 Na-133 
K-5.1 Cl-96 HCO3-27 AnGap-15
___ 07:00AM BLOOD Glucose-112* UreaN-18 Creat-0.9 Na-133 
K-4.3 Cl-98 HCO3-27 AnGap-12
___ 06:30AM BLOOD Glucose-88 UreaN-15 Creat-0.8 Na-132* 
K-4.1 Cl-98 HCO3-28 AnGap-10
___ 06:10AM BLOOD Glucose-98 UreaN-13 Creat-1.0 Na-132* 
K-4.2 Cl-97 HCO3-29 AnGap-10
___ 09:30AM BLOOD Glucose-110* UreaN-15 Creat-1.0 Na-130* 
K-4.9 Cl-98 HCO3-28 AnGap-9
___ 12:15AM BLOOD Glucose-186* UreaN-16 Creat-1.0 Na-128* 
K-5.6* Cl-98 HCO3-19* AnGap-17
___ 06:58PM BLOOD Glucose-122* UreaN-9 Creat-0.4 Na-131* 
K-4.3 Cl-100 HCO3-14* AnGap-21*
___ 09:00PM BLOOD CK(CPK)-313*
___ 01:00PM BLOOD CK(CPK)-315*
___ 06:30AM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD CK-MB-2 cTropnT-0.01
___ 01:00PM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:30AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.9
___ 07:00AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.8
___ 06:30AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.9
___ 06:10AM BLOOD Calcium-8.4 Phos-2.8 Mg-1.7
___ 06:49AM BLOOD Calcium-8.2* Phos-3.2# Mg-1.7
___ 09:30AM BLOOD Calcium-9.2 Phos-4.9* Mg-1.7
___ 12:15AM BLOOD Calcium-8.5 Phos-4.9*# Mg-2.1
___ 06:58PM BLOOD Calcium-6.7* Phos-2.5* Mg-0.7*
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
Overnight on POD#0, the patient's urine output was downtrending. 
 She was given a 1 liter bolus of fluid with appropriate 
response.  Her potassium then increased to 5.6.  Calcium and 
insulin were given.  EKG was unchanged.  Her fluids were changed 
to normal saline.  Patient had some difficulty with word 
finding.  Neuro exam intact.  Her narcotics were changed from 
Oxycodone to Tramadol.  On POD#1, the patient continued to have 
difficulty with word finding.  Neurology was consulted and 
recommended a CT of the head.  The CT showed significant 
atrophy, which was unchanged from previous CT.  Neurology 
believed it was delirium.  An infectious was performed, which 
was negative.  She was kept on the Tramadol; however, she was 
eventually placed on low-dose Oxycodone for better pain control. 
 Geriatrics was also consulted to assist in co-management of the 
patient.  On POD#2, her infectious work-up continued to be 
negative.  Her sodium was also low (129-130) post-operatively.  
Geriatrics believed it was due to her Prozac.  The dosage of 
this medication was decreased during her admission with plans to 
discontinue it post-taper.  On POD#3, her hematocrit was 20.3 
and she was transfused with 2 units of blood.  She also 
complained of chest pain/tightness.  An EKG was performed and 
showed no change from previous EKGs.  Cardiac enzymes were 
drawn, which were negative.  On POD#4, an incisional wound vac 
was placed for incisional drainage.  It was removed on POD#5.  
She was kept for two additional days until her drainage had 
decreased.

Otherwise, the patient received Lovenox for DVT prophylaxis 
starting on the morning of POD#1.  The foley was removed and the 
patient was voiding independently thereafter. The surgical 
dressing was changed and the Silverlon dressing was removed on 
POD#2. The surgical incision was found to be clean and intact 
without erythema or abnormal drainage. The patient was seen 
daily by physical therapy. Labs were checked throughout the 
hospital course and repleted accordingly. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the wound was benign. 

The patient's weight-bearing status is touch down weight bearing 
on the operative extremity with posterior precautions. She 
should remain in her abduction brace at all times, locked at 30 
degrees of abduction, ___ degrees of hip flexion. Walker or two 
crutches at all times for 6 weeks.
 
Ms ___ is discharged to rehab in stable condition.
 
Medications on Admission:
1. Amoxicillin ___ mg PO ONCE:PRN dental procedure 
2. Celecoxib 50 mg oral BID 
3. Denosumab (Prolia) 60 mg SC Q6MONTHS 
4. Fluoxetine 40 mg PO DAILY 
5. Gabapentin 600 mg PO TID 
6. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Lisinopril 2.5 mg PO DAILY 
9. Lorazepam 1 mg PO BID:PRN anxiety 
10. Omeprazole 20 mg PO DAILY 
11. TraZODone 100 mg PO QHS 
12. Calcium Carbonate 200 mg PO TID 
13. calcium polycarbophil 625 mg oral BID 
14. Vitamin D ___ UNIT PO DAILY 
15. Docusate Sodium 100 mg PO BID 
16. LOPERamide 2 mg PO BID:PRN diarrhea 
17. Multivitamins 1 TAB PO DAILY 
18. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Calcium Carbonate 200 mg PO TID 
2. Docusate Sodium 100 mg PO BID 
3. Gabapentin 600 mg PO TID 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Lorazepam 1 mg PO BID:PRN anxiety 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 
10. TraZODone 100 mg PO QHS 
11. Vitamin D ___ UNIT PO DAILY 
12. Acetaminophen 1000 mg PO Q8H 
13. Enoxaparin Sodium 40 mg SC DAILY Duration: 4 Weeks 
14. Amoxicillin ___ mg PO ONCE:PRN dental procedure 
15. calcium polycarbophil 625 mg oral BID 
16. Denosumab (Prolia) 60 mg SC Q6MONTHS 
17. Fluoxetine 20 mg PO DAILY 
18. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left hip hemiarthoplasty aseptic loosening

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your ___.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc).
 
8. ANTICOAGULATION: Please continue your Lovenox for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  If 
you were taking aspirin prior to your surgery, it is OK to 
continue at your previous dose while taking anticoagulation 
medication.  ___ STOCKINGS x 6 WEEKS.
 
9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
each day, otherwise leave it open to air. Check wound regularly 
for signs of infection such as redness or thick yellow drainage. 
Staples will be removed at your first postoperative in clinic in 
two (2) weeks.
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks, and staple removal at two weeks after 
surgery.
 
11. ACTIVITY: Touch down weight bearing with ___ or 2 
crutches at all times for six weeks.  Posterior precautions. 
Abduction brace on at all, locked at 30 degrees of abudction, 0 
to 90 degrees of hip flexion. No strenuous exercise or heavy 
lifting until follow up appointment.  Mobilize frequently.
 
Physical Therapy:
TDWB LLE with walker/crutches x 6 weeks
Abduction brace on at all times x 6 weeks, locked at 30 degrees 
of abduction, ___ degrees hip flexion
Posterior hip precautions
Mobilize frequently
Treatments Frequency:
DAILY dressing changes 
wound checks daily
ice
TEDs
staples will be removed at first postoperative visit in clinic 
in 2 weeks
abduction brace on at all times x 6 weeks
 
Followup Instructions:
___